US09416132B2
Compound 6-chloro-3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazine (0.2 g, 0.638 mmol), 4-aminomethyltetrahydropyran (0.145 g, 0.956 mmol), Sodium tertiarybutyloxide (0.172 g, 1.785 mmol), rac-BINAP (0.024 g, 0.038 mmol) and Pd2(dba)3 (0.018 g, 0.019 mmol) were combined in a 20 ml vial. Toluene (5 mL) was added and nitrogen was bubbled through the mixture for 5 minutes. The reaction mixture was then heated to 100° C. overnight. Silica gel was added to the reaction mixture and the solvent stripped off. The product was isolated via column chromatography (hexanes:EtOAc) with the Compound N-((tetrahydro-2H-pyran-4-yl)methyl)-3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazin-6-amine eluting at 100% EtOAc.

reactant | 6-chloro-3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazine | 0.638 mmol, 0.2 g | ClC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)OC(F)(F)F | C13H7ClF3N3O
reactant | 4-aminomethyltetrahydropyran | 0.956 mmol, 0.145 g | NCC1CCOCC1 | C6H13NO
reactant | Sodium tertiarybutyloxide | 1.785 mmol, 0.172 g | C(C)(C)(C)OC(C)(C)C.[Na]
reactant | rac-BINAP | 0.038 mmol, 0.024 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
catalyst | Pd2(dba)3 | 0.019 mmol, 0.018 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | N-((tetrahydro-2H-pyran-4-yl)methyl)-3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazin-6-amine | O1CCC(CC1)CNC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)OC(F)(F)F | C19H19F3N4O2
